US05028606
A mixture of 10 parts of intermediate 7, namely N-[4-(1-hydroxybutyl)phenyl]acetamide, 16.2 parts of 1,1'-carbonylbis[1H-imidazole] and 135 parts of tetrahydrofuran was stirred for 17 hours at room temperature. The reaction mixture was evaporated and the residue was taken up in trichloromethane. The organic phase was washed with a potassium carbonate solution 10% in water, dried, filtered and evaporated. The residue was purified by column chromatography (HPLC) over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 5.8 parts (45.0%) of N-[4-[1-(1H-imidazol-1-yl)butyl]phenyl]acetamide; mp. 186° C. (interm. 8);

reactant | N-[4-(1-hydroxybutyl)phenyl]acetamide | OC(CCC)C1=CC=C(C=C1)NC(C)=O | C12H17NO2
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-[1-(1H-imidazol-1-yl)butyl]phenyl]acetamide | 45.0% | N1(C=NC=C1)C(CCC)C1=CC=C(C=C1)NC(C)=O | C15H19N3O
